US06455528B1
(3) Ethyl 4-Aminomesitylenate
To a solution of ethyl 4-nitromesitylenate (7.7 g) in ethyl acetate (300 ml) was added 10% palladium-carbon (3 g) and the mixture was stirred for 3.5 hr under a hydrogen atmosphere. The catalyst was filtered off from the reaction mixture and the filtrate was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (6.6 g) as pale-brown crystals.

reactant | ethyl 4-nitromesitylenate | 7.7 g | [N+](=O)([O-])C1=C(C=C(C=C1C)C(=O)OCC)C | C11H13NO4
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 3 g | [C].[Pd]
product | Ethyl 4-Aminomesitylenate | 6.6 g | NC1=C(C=C(C=C1C)C(=O)OCC)C | C11H15NO2
